2135-02-21 08:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever / tachypnea
   24 Hour Events:
 PICC LINE - START [**2135-2-20**] 03:00 PM
   PICC line placed in OSH.  Line is 4cm out.
 EKG - At [**2135-2-20**] 11:00 PM
   - Pt received 40 IV Lasix and thereafter became tahcycardic to 130s,
   sinus tach on EKG
   - Pt  also became hypotensive to 87/56 sbp  and was given 250cc bolus
   - Pt later became tachycardic to 180s and developed fever 100. Pt
   IVIG was stopped, and given benadryl.
   - Pt was given 1 unit PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-2-20**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2135-2-21**] 01:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-2-20**] 08:00 PM
   Morphine Sulfate - [**2135-2-20**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-2-21**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 106 (91 - 139) bpm
   BP: 100/63(38) {82/59(38) - 159/83(117)} mmHg
   RR: 48 (29 - 48) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,120 mL
                                                                    350 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    300 mL
                                                                    350 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,990 mL
                                                                    575 mL
   Urine:
                                                                  1,545 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 586 (527 - 586) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.52/34/63/27/4
   Ve: 14.3 L/min
   PaO2 / FiO2: 158
   Physical Examination
   GENERAL: Pleasant, mild resp distress
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  Flat
   LUNGS: bibasilar rales, and rales throughout lungs
   ABDOMEN: +BS, soft, LUQ firm mass (likely stool), No HSM
   EXTREMITIES: 2+ LE edema R>L, RLE improved from previous per wife
   SKIN: [**Name2 (NI) 4638**] at abdomen
   NEURO: A&Ox3
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   26 K/uL
   8.7 g/dL
   83 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   18 mg/dL
   96 mEq/L
   133 mEq/L
   24.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2135-2-20**]  09:32 PM
                             [**2135-2-20**]  09:35 PM
                             [**2135-2-21**]  03:42 AM
   WBC
   9.3
   6.7
   Hct
   27.2
   24.9
   Plt
   32
   26
   Cr
   0.8
   TCO2
   29
   Glucose
   83
   Other labs: PT / PTT / INR:16.9/26.2/1.5, Alk Phos / T Bili:/2.4,
   Differential-Neuts:17.0 %, Band:0.0 %, Lymph:76.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:368 mg/dL, LDH:348 IU/L, Ca++:10.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   73yo M w/ long hx of CLL on chronic steroids and c/b AIHA,
   hypogammaglobinemia, recent R hip fx ([**1-6**]) s/p  R hip nail and ORIF
   and recurrent pna's, who now presents with PNA
   .
   #. Fever - pt has had chronic cough since [**Month (only) **], and reccurent PNA. No
   focal infiltrate on CT. Pt may be immunocompromised from CLL and will
   tx. Pt received Vanc/Zosn in ED.
   - Vanc 1g IV q12 / Zosyn 4.5g q8 / fluconazole
   - sputum cx
   - B-glucan given previous fungal pna
   - galactomanan give immunocompromised
   - duonebs prn wheezing
   - Will also d/c old PICC (not from this hospitalizaition) since source
   of fevers.
   .
   #. [**Name (NI) 4639**] Pt has significant pleural effusion on L. H/o Recurrent
   pleural effusions, status post right pleurodesis on [**2131-10-1**]. Thought
   to be malignant effusion.  Pt
s tachypnea may also be central
   hyperventilation 2/2 infection esp as pt is at risk being
   immunocompromised.  Also pt appear more fatigued/somnolent
   - Dr. [**Last Name (STitle) 379**]  okay agrees with pleurodesis
   - Will call IP for thoracentesis/pleurodesis
   - Will speak to Dr. [**Last Name (STitle) 379**] about overall plan with his care
   - recheck ABG
 to see if pt is tiring out.
   - If concerned about central hyperventilation will get LP
   .
   #. ? hypervolemia- no h/o heart failure - previously fluid overloaded
   on previous admission, currently 2+ LE edema, bibasilar rales. Pt does
   have a h/o IVC compression by RP LAD causing lower extremity edema No
   significant cardiomegaly, and very mild blunting of costophrenic angle
   - lasix 40 IV x1
   - will moniter to see improvement
   .
   #. Thrombocytopenia - received 1 unit plts yesterday for plt 13,
   currently 32
   - transfuse plts < 20
   .
   #. AIHA- [**1-17**] CLL, pt on chronic steriods
   - continue prednisone 10mg
   - transfuse if active bleeding, or Hct <21
   .
   #. Hypogammaglobinemia- IVIG was on [**2135-1-4**], planned to get monthly
   in winter months
   - will give IVIG if okay by blood bank
   .
   #. CLL - per outpt onc, on Rituxan/Bedamustine
   .
   #. Stage II Decub- dressing changes and ointments per protocol
   .
   #. S/p femur fx - no pain currently, do not suspect infxn.
   .
   #. .
   # PUD- restart PPI
   .
   FEN: NPO for now
   .
   PPX:
   -PCP px [**Name Initial (PRE) **]/ pentamidine
   -Acycolovir
   -IVIG
   -DVT ppx with boots (no SQH w/ thrombocytopenia and AIHI)
   -Bowel regimen colace, senna
   -Pain management with tylenol
   .
   ACCESS: PIV 18g, and PICC
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2135-2-20**] 03:00 PM
   18 Gauge - [**2135-2-20**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2135-02-22 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2135-2-21**] 07:20 PM
   - Thoracentesis by Dr [**Last Name (STitle) 4466**], 1100cc of bloody fluid removed, sent for
   cytology, cell count and diff, hct
 PICC LINE - STOP [**2135-2-21**] 10:00 PM
   PICC line placed in OSH.  Line is 4cm out.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-2-21**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2135-2-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-2-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-2-22**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96
   HR: 95 (86 - 106) bpm
   BP: 116/65(78) {104/59(74) - 148/101(114)} mmHg
   RR: 27 (19 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                  2,448 mL
                                                                    362 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    100 mL
   Blood products:
                                                                    958 mL
                                                                    202 mL
   Total out:
                                                                  1,046 mL
                                                                    293 mL
   Urine:
                                                                  1,046 mL
                                                                    293 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,402 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   GENERAL: Pleasant, mild resp distress
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  Flat
   LUNGS: rales improved, still shallow breathing
   ABDOMEN: +BS, soft, LUQ firm mass (likely stool), No HSM
   EXTREMITIES: 2+ LE edema R>L, RLE improved from previous per wife
   SKIN: [**Name2 (NI) 4638**] at abdomen
   NEURO: A&Ox3
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   43 K/uL
   10.2 g/dL
   67 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   100 mEq/L
   134 mEq/L
   29.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2135-2-20**]  09:32 PM
                             [**2135-2-20**]  09:35 PM
                             [**2135-2-21**]  03:42 AM
                             [**2135-2-21**]  05:58 PM
                             [**2135-2-22**]  04:00 AM
   WBC
   9.3
   6.7
   5.2
   Hct
   27.2
   24.9
   29.0
   Plt
   32
   26
   68
   43
   Cr
   0.8
   0.6
   TCO2
   29
   Glucose
   83
   67
   Other labs: PT / PTT / INR:16.9/26.2/1.5, Alk Phos / T Bili:/2.4,
   Differential-Neuts:17.0 %, Band:0.0 %, Lymph:76.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:368 mg/dL, LDH:348 IU/L, Ca++:10.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   73yo M w/ long hx of CLL on chronic steroids and c/b AIHA,
   hypogammaglobinemia, recent R hip fx ([**1-6**]) s/p  R hip nail and ORIF
   and recurrent pna's, who now presents with PNA
   .
   #. [**Name (NI) 4639**] Pt had tachypnea that improved post-thoracentesis w/ RR
   in 20s. Effusion appeared bloody, and labs support malignant effusion.
   Now pt
s RR 30s. Central hyperventilation is still a possibility. Wife
   says pt always becomes this tachypneic when he becomes sick.
   - Will discuss w/ Dr. [**Last Name (STitle) 379**] if should pursue LP
   - Will repeat CXR today to look for reaccumulation s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**]
   #. Fever - pt has had chronic cough since [**Month (only) **], and reccurent PNA. No
   focal infiltrate on CT. Pt may have pnau Pt may be immunocompromised
   from CLL and will tx. Pt received Vanc/Zosn in ED.
   - Vanc 1g IV q12 / Zosyn 4.5g q8 / fluconazole
   - sputum cx
   - f/u B-glucan, galactomanan
   - duonebs prn wheezing
   - D/c old PICC (not from this hospitalizaition) since source of fevers.
   #. Low [**Name (NI) 4684**] pt
s Cr is stable, but over the last couple hours pt
s UOP
   has dropped to 5-10cc/h. Pre-renal possible. Pt also had contras load,
   and contrast nephropathy possible. Pt also may have foley obstruction.
   - Will give 500cc bolus and check response.
   - check urine lytes, and eos
   .
   #. Thrombocytopenia - received 1 unit plts yesterday for plt 13,
   currently 32
   - transfuse plts < 20
   .
   #. AIHA- [**1-17**] CLL, pt on chronic steriods
   - continue prednisone 10mg
   - transfuse if active bleeding, or Hct <21
   .
   #. Hypogammaglobinemia- IVIG was on [**2135-1-4**], planned to get monthly
   in winter months
   - will give IVIG if okay by blood bank
   .
   #. CLL - per outpt onc, on Rituxan/Bedamustine
   .
   #. Stage II Decub- dressing changes and ointments per protocol
   .
   #. S/p femur fx - no pain currently, do not suspect infxn.
   # PUD- onPPI
   .
   FEN: swallow study, nurse thinks pt aspirating
   .
   PPX:
   -PCP px [**Name Initial (PRE) **]/ pentamidine
   -Acycolovir
   -IVIG
   -DVT ppx with boots (no SQH w/ thrombocytopenia and AIHI)
   -Bowel regimen colace, senna
   -Pain management with tylenol
   .
   ACCESS: PIV 18g, Pt will need new PICC tomorrow if stays afebrile.
   CODE STATUS: full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2135-2-20**] 03:00 PM
   20 Gauge - [**2135-2-21**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2135-02-23 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2135-2-22**] 01:02 PM
   - Pt remained tachycardic and tachypneic throughout the night.
   - Pt received 500ml bolus x3, but UOP remained near 30cc/h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2135-2-22**] 08:20 PM
   Fluconazole - [**2135-2-22**] 08:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2135-2-22**] 10:00 PM
   Acyclovir - [**2135-2-23**] 04:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-2-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 108 (90 - 108) bpm
   BP: 131/82(94) {110/63(78) - 144/84(94)} mmHg
   RR: 31 (26 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,372 mL
                                                                    574 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,050 mL
                                                                    574 mL
   Blood products:
                                                                    202 mL
   Total out:
                                                                    660 mL
                                                                    217 mL
   Urine:
                                                                    660 mL
                                                                    217 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,712 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.50/35/85.[**Numeric Identifier 433**]/23/3
   PaO2 / FiO2: 213
   Physical Examination
   GENERAL: Pleasant, mild resp distress
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  Flat
   LUNGS: rales improved, still shallow breathing
   ABDOMEN: +BS, soft, LUQ firm mass (likely stool), No HSM
   EXTREMITIES: 2+ LE edema R>L, RLE improved from previous per wife
   SKIN: [**Name2 (NI) 4638**] at abdomen
   NEURO: A&Ox3
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   26 K/uL
   9.6 g/dL
   71 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   25 mg/dL
   102 mEq/L
   135 mEq/L
   27.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2135-2-20**]  09:32 PM
                             [**2135-2-20**]  09:35 PM
                             [**2135-2-21**]  03:42 AM
                             [**2135-2-21**]  05:58 PM
                             [**2135-2-22**]  04:00 AM
                             [**2135-2-23**]  04:01 AM
                             [**2135-2-23**]  06:21 AM
   WBC
   9.3
   6.7
   5.2
   6.1
   Hct
   27.2
   24.9
   29.0
   27.1
   Plt
   32
   26
   68
   43
   26
   Cr
   0.8
   0.6
   0.7
   TCO2
   29
   28
   Glucose
   83
   67
   71
   Other labs: PT / PTT / INR:16.9/26.2/1.5, Alk Phos / T Bili:/2.4,
   Differential-Neuts:17.0 %, Band:0.0 %, Lymph:76.0 %, Mono:1.0 %,
   Eos:0.0 %, Fibrinogen:368 mg/dL, LDH:348 IU/L, Ca++:11.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   73yo M w/ long hx of CLL on chronic steroids and c/b AIHA,
   hypogammaglobinemia, recent R hip fx ([**1-6**]) s/p  R hip nail and ORIF
   and recurrent pna's, who now presents with PNA
   .
   #. [**Name (NI) 4639**] Pt had tachypnea that improved post-thoracentesis w/ RR
   in 20s. Effusion appeared bloody, and labs support malignant effusion.
   Now pt
s RR 30s. Central hyperventilation is still a possibility. Wife
   says pt always becomes this tachypneic when he becomes sick.
   - Will discuss w/ Dr. [**Last Name (STitle) 379**] if should pursue LP
   - Will repeat CXR today to look for reaccumulation s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**]
   #. Fever - pt has had chronic cough since [**Month (only) **], and reccurent PNA. No
   focal infiltrate on CT. Pt may have pnau Pt may be immunocompromised
   from CLL and will tx. Pt received Vanc/Zosn in ED.
   - Vanc 1g IV q12 / Zosyn 4.5g q8 / fluconazole
   - sputum cx
   - f/u B-glucan, galactomanan
   - duonebs prn wheezing
   - D/c old PICC (not from this hospitalizaition) since source of fevers.
   #. Low [**Name (NI) 4684**] pt
s Cr is stable, but over the last couple hours pt
s UOP
   has dropped to 5-10cc/h. Pre-renal possible. Pt also had contras load,
   and contrast nephropathy possible. Pt also may have foley obstruction.
   - Will give 500cc bolus and check response.
   - check urine lytes, and eos
   .
   #. Thrombocytopenia - received 1 unit plts yesterday for plt 13,
   currently 32
   - transfuse plts < 20
   .
   #. AIHA- [**1-17**] CLL, pt on chronic steriods
   - continue prednisone 10mg
   - transfuse if active bleeding, or Hct <21
   .
   #. Hypogammaglobinemia- IVIG was on [**2135-1-4**], planned to get monthly
   in winter months
   - will give IVIG if okay by blood bank
   .
   #. CLL - per outpt onc, on Rituxan/Bedamustine
   .
   #. Stage II Decub- dressing changes and ointments per protocol
   .
   #. S/p femur fx - no pain currently, do not suspect infxn.
   # PUD- onPPI
   .
   FEN: swallow study, nurse thinks pt aspirating
   .
   PPX:
   -PCP px [**Name Initial (PRE) **]/ pentamidine
   -Acycolovir
   -IVIG
   -DVT ppx with boots (no SQH w/ thrombocytopenia and AIHI)
   -Bowel regimen colace, senna
   -Pain management with tylenol
   .
   ACCESS: PIV 18g, Pt will need new PICC tomorrow if stays afebrile.
   CODE STATUS: full
   .
   EMERGENCY CONTACT: wife
   .
   DISPOSITION: ICU
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 NEUTROPENIA
 THROMBOCYTOPENIA, CHRONIC
 .H/O LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PLEURAL EFFUSION, ACUTE
 ALTERATION IN TISSUE PERFUSION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2135-2-21**] 10:00 PM
   18 Gauge - [**2135-2-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: